US07635715B2
Step D: Preparation of Ethyl 8-fluoro-4,7-dihydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
To 20 mL concentrated H2SO4 stirred at room temperature, was added diethyl 2-(2-(2-fluoro-3-hydroxyphenyl)-2-methylpropanoyl)malonate (3.6 g, 11 mmol). The mixture was stirred at room temperature for 2 hours, M+1=295. The mixture was then poured into 100 g crushed ice and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 10-30% EtOAc/hexane to give 2.9 g of the title compound as a pale yellow solid. MS (m/z)=295 (M+H)+.

reactant | diethyl 2-(2-(2-fluoro-3-hydroxyphenyl)-2-methylpropanoyl)malonate | 11 mmol, 3.6 g | FC1=C(C=CC=C1O)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21FO6
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 8-fluoro-4,7-dihydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 2.9 g | FC=1C(=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)OCC)O)O | C15H15FO5
